US04376771
47.2 g (0.25 mole) of 6-(p-aminophenyl)-4,5-dihydropyridaz-3-one and 35.6 g (0.28 mole) of 2-chloropropionyl chloride in 250 ml of absolute benzene are refluxed for 2 hours. The product is filtered off at 10° C., washed first with benzene and then with water and dried under reduced pressure at 100° C. 64.8 g (93% of theory) of 6-[p-(2-chloropropionylamino)-phenyl]-4,5-dihydropyridaz-3-one are obtained as a beige solid which, after recrystallization from propanol, melts, with decomposition, at 243°-244° C.

reactant | 6-(p-aminophenyl)-4,5-dihydropyridaz-3-one | 0.25 mole, 47.2 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | 2-chloropropionyl chloride | 0.28 mole, 35.6 g | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 6-[p-(2-chloropropionylamino)-phenyl]-4,5-dihydropyridaz-3-one | 64.8 g, 93% | ClC(C(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O)C | C13H14ClN3O2
